US05998470
a) N-benzyloxycarbonyl-L-leucine methyl ester
To a stirring solution of L-leucine methyl ester (2.0 g, 11.0 mmol) in 1,4-dioxane (20 mL) was added aqueous Na2CO3 solution (12.1 mL, 2M in H2O) followed by benzylchloroformate (1.96 g, 11.5 mmol). The mixture stirred at room temperature for 4 h then partitioned between ethyl acetate and water. The organic layer was washed with saturated brine, dried (MgSO4), filtered and concentrated to yield the title compound as a colorless oil (3.1 g, 100%). 1HNMR (400 MHz, CDCl3) δ7.34 (m, 5H), 5.27 (d, 1H), 5.12 (s, 2H), 4.41 (s, 2H), 3.75 (s, 3H), 1.65 (m, 3H), 0.96 (m, 6H).

reactant | L-leucine methyl ester | 11.0 mmol, 2.0 g | COC([C@@H](N)CC(C)C)=O | C7H15NO2
reactant | Na2CO3 | 2M, 12.1 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | benzylchloroformate | 11.5 mmol, 1.96 g | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | N-benzyloxycarbonyl-L-leucine methyl ester | 3.1 g, 100% | COC([C@@H](NC(=O)OCC1=CC=CC=C1)CC(C)C)=O | C15H21NO4
